US06693123B2
To a solution in dichloromethane (25 mL) of 4-bromomethyl-2-phenylbenzoic acid (2.16 g, 7.42 mmol), prepared as in Example 234B, was added oxalyl chloride (0.84 mL, 965 mmol) and 2 drops on DMF and the reaction mixture was stirred for 2 hours. The reaction mixture was concentrated in vacuo and azeotroped with toluene. The residue was dissolved in dichloromethane (15 mL) and then was added to a solution in dichloromethane (15 mL) of methionine methyl ester hydrochloride (1.78 g, 8.90 mmol) and diisopropylethylamine (3.10 g, 17.81 mmol) (prepared at −10° C.) dropwise. The reaction mixture was stirred for 30 minutes and then was poured into ether and extracted with water, aqueous 3N HCl (2×) and brine, dried, filtered and concentrated in vacuo. Chromatography on silica gel (5% ethyl acetate-chloroforn) to give (4-bromomethyl-2-phenylbenzoyl)methionine methyl ester (2.42 g, 75%).

reactant | 4-bromomethyl-2-phenylbenzoic acid | 7.42 mmol, 2.16 g | BrCC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C14H11BrO2
reactant | oxalyl chloride | 965 mmol, 0.84 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methionine methyl ester hydrochloride | 8.90 mmol, 1.78 g | Cl.COC([C@@H](N)CCSC)=O
reactant | diisopropylethylamine | 17.81 mmol, 3.10 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | (4-bromomethyl-2-phenylbenzoyl)methionine methyl ester | 2.42 g, 75% | COC([C@@H](NC(C1=C(C=C(C=C1)CBr)C1=CC=CC=C1)=O)CCSC)=O | C20H22BrNO3S
